US05434154
A solution of 3-(3-iodopropyl)-N-methyl-1H-indole-5-methanesulfonamide (0.556 g, 1.26 mmol), 1-(3-methoxy-4-pyridinyl)piperazine (0.4 g, 2.02 mmol), and K2CO3 (0.5 g, 3.6 mmol) in 30 mL of MeCN was heated to reflux for 12 h. The reaction mixture was cooled, concentrated in vacuo, and the residue dissolved EtOAc. The EtOAc solution was washed with water, dried (MgSO4), filtered and concentrated in vacuo. Silica gel chromatography (100:3:1 CH2Cl2 -MeOH-Et3N) of the residue gave 4-(5-methoxy-4-pyridinyl)-1-[3-[5-[[(methylamino)sulfonyl]methyl]-1-H-indol-3-yl]propyl]piperazine (300 mg, 52%). The hydrochloride salt was prepared by dissolving the free base in 3 equivalents of 1.5 M HCl in EtOH. The solution was concentrated in vacuo and the residue recrystallized from MeOH to yield the title compound (380 mg, 50%): mp 100°-103° C. Anal. Calcd for C23H31N5O3S.3.8 HCl: C, 46.34; H, 5.88; N, 11.78. Found: C, 46.32; H, 6.18; N, 11.67

reactant | 3-(3-iodopropyl)-N-methyl-1H-indole-5-methanesulfonamide | 1.26 mmol, 0.556 g | ICCCC1=CNC2=CC=C(C=C12)CS(=O)(=O)NC | C13H17IN2O2S
reactant | 1-(3-methoxy-4-pyridinyl)piperazine | 2.02 mmol, 0.4 g | COC=1C=NC=CC1N1CCNCC1 | C10H15N3O
reactant | K2CO3 | 3.6 mmol, 0.5 g | C(=O)([O-])[O-].[K+].[K+]
solvent | MeCN | 30 mL | CC#N | C2H3N
product | 4-(5-methoxy-4-pyridinyl)-1-[3-[5-[[(methylamino)sulfonyl]methyl]-1-H-indol-3-yl]propyl]piperazine | 300 mg, 52% | COC=1C(=CC=NC1)N1CCN(CC1)CCCC1=CNC2=CC=C(C=C12)CS(=O)(=O)NC | C23H31N5O3S
